US07514451B2
cis-1-Benzyl-3-hydroxy-4-methylpyrrolidine (6.81 g) was dissolved in dichloromethane (70 mL). While the solution was chilled in a dry ice/acetone bath, triethylamine (5.21 mL) was added, followed by dropwise addition of methanesulfonyl chloride (2.89 mL) and stirring for 1 hour. Subsequently, water (50 mL) was added and the mixture was allowed to warm to room temperature. The dichloromethane layer was separated and the aqueous layer was extracted with dichloromethane (50 mL). The dichloromethane layers were combined, washed with water, dried over anhydrous sodium sulfate and concentrated under reduced pressure. The resulting residue was dissolved in acetonitrile (180 mL). To this solution, tetrabutylammonium cyanide (23.9 g) was added and the mixture was refluxed for 7 hours. Subsequently, the reaction mixture was concentrated under reduced pressure and the residue was dissolved in ethyl acetate (300 mL). This solution was washed with water, dried over anhydrous sodium sulfate, and concentrated under reduced pressure. The residue was then purified by silica gel column chromatography (hexane: ethyl acetate=1:1) to give cis-1-benzyl-4-methyl-3-pyrrolidinecarbonitrile as a brown oil (4.61 g).

reactant | cis-1-Benzyl-3-hydroxy-4-methylpyrrolidine | 6.81 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C)O | C12H17NO
reactant | triethylamine | 5.21 mL | C(C)N(CC)CC | C6H15N
reactant | methanesulfonyl chloride | 2.89 mL | CS(=O)(=O)Cl | CH3ClO2S
reactant | water | 50 mL | O | H2O
solvent | dichloromethane | 70 mL | ClCCl | CH2Cl2
product | cis-1-benzyl-4-methyl-3-pyrrolidinecarbonitrile | 4.61 g | C(C1=CC=CC=C1)N1C[C@H]([C@H](C1)C)C#N | C13H16N2
